US09428469B2
4-(5-Amino-1H-[1,2,4]triazol-3-ylamino)-2,6-dichloro-benzonitrile
A solution of (Z)-methyl N′-cyano-N-(3,5-dichloro-4-cyanophenyl)carbamimidothioate (234 mg, 821 μmol, Eq: 1.00) and hydrazine (263 mg, 258 μl, 8.21 mmol, Eq: 10) in ethanol (10 mL) was heated at 65° C. o/n. The reaction mixture was concentrated and chromatographed (23 Supelco, 100% DCM to 5% to 10% MeOH/DCM to give 156 mg (71%) of desired product as an off-white solid.

reactant | (Z)-methyl N′-cyano-N-(3,5-dichloro-4-cyanophenyl)carbamimidothioate | 821 μmol, 234 mg | C(#N)\N=C(\NC1=CC(=C(C(=C1)Cl)C#N)Cl)/SC | C10H6Cl2N4S
reactant | hydrazine | 8.21 mmol, 258 μl, 263 mg | NN | H4N2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-(5-Amino-1H-[1,2,4]triazol-3-ylamino)-2,6-dichloro-benzonitrile | 156 mg, 71% | NC1=NC(=NN1)NC1=CC(=C(C#N)C(=C1)Cl)Cl | C9H6Cl2N6
